US04904770
3',5'-Di-O-(methanesulfonyl)thymidine
A 3 liter, 3 necked round-bottomed flask was equipped with an overhead stirrer and paddle, a 500 mL dropping funnel and a Claisen adapter containing a drying tube and a thermometer. Thymidine (200 g, 0.82M) and pyridine (750 mL) were added to the flask. The mixture was stirred and warmed with a water bath (20 mins) to give a clear solution. The solution was then cooled in an ice bath to 0°-3° C. and the dropping funnel was charged with methanesulfonyl chloride (206.5 g, 1.08M). The methanesulfonyl chloride was then added dropwise over 40 minutes with no noticeable exotherm. The solution was stirred at 0° C. for 1 hr and then stored at 5° C. for 18 hr. The light brown mixture was then poured onto rapidly stirred water (3 L) containing ice (approx. 500 g). The desired product crystallised immediately. After stirring for 0.5 hr, the product was collected by filtration and washed several times with water (3×100 mL). The white solid was then dried under vacuum overnight (crude weight, 322 g, 98% yield). The product was recrystallised from hot acetone to give 267 g of a white solid (81% yield), mp 169°-171° C. (lit. 170°-171° C.)

reactant | Thymidine | 0.82M, 200 g | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
reactant | pyridine | 750 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 1.08M, 206.5 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | water | 3 L | O | H2O
product | 3',5'-Di-O-(methanesulfonyl)thymidine | 267 g, 81% yield | CS(=O)(=O)O[C@H]1C[C@@H](O[C@@H]1COS(=O)(=O)C)N1C(=O)NC(=O)C(C)=C1 | C12H18N2O9S2
